US04405662
(d) Bis-(2-hydroxy-3-diethylaminopropyl)terephthalate
Diglycidyl terephthalate (145 parts, 1.0 epoxy equivalent) was dissolved in 1,2-dimethoxyethane (145 parts). Diethyl amine (73 parts, 1 mol.) was added at room temperature. The mixture was heated at 60° C. for 20 hours and part of the solvent (75 parts) was stripped off in vacuo. The product, a light-brown viscous solution, had a solids content of 4.45 meq./g theory: 4.59). 2-hydroxy-3-diethylaminiopropyl groups per molecule: 2; molecular weight: 436 (calculated).

reactant | Diglycidyl terephthalate | C(C1=CC=C(C(=O)OCC2CO2)C=C1)(=O)OCC1CO1 | C14H14O6
reactant | Diethyl amine | 1 mol | C(C)NCC | C4H11N
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | Bis-(2-hydroxy-3-diethylaminopropyl)terephthalate | OC(COC(C1=CC=C(C(=O)OCC(CN(CC)CC)O)C=C1)=O)CN(CC)CC | C22H36N2O6
